Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, diarrhea, fever 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with history of anxiety and depression who presents with
36 hour hx of diarrhea, abdominal pain, fever, nausea, and
vomiting. 

___ initially presented to ___ after waking up at four AM on
___ with nausea, vomiting, and diarrhea. At ___, he was
given IVF and referred to the ___. At ___, he
tested negative for Shigatoxin 1 and 2. He had an abdominal US
that showed a question of a mass on his pancreas. Because of 
this
finding, he underwent a CT scan of his abdomen, which
demonstrated enlarged mesenteric lymph nodes and fat stranding
and a normal pancreas. He was noted to have a mildly elevated
lipase and mildly elevated LFTs. He was given IVF and discharged
with presumed infectious diarrhea. He was febrile to ___
yesterday. His symptoms continued through the next day and he
felt very weak and dizzy, so he re-presented to ___ where he 
was
given IVF, Zofran, and morphine and told to present to ___ ED. 


In our ED, he reports that he has had >100 episodes of diarrhea.
He denies any blood in his stools, but notes some "red flakes"
that started today, though he says he hasn't eat anything with
red flakes in it. He denies any mucous in his diarrhea. He
reports his diarrhea is now "neon yellow" and burns. He has RUQ
pain with intermittent lower abdominal pain before he needs to
have a BM. He also reports that after trying to eat some
applesauce today, he felt a sharp pain in his esophagus. He
denies any hematemesis. 

He also endorses dysuria and increased urinary frequency in the
last 36 hours, which he reports is new for him. 

___ denies any sick contacts, he denies recent travel outside
the country, he was recently at home in ___ before returning to
___ for school. He reports that he ate "dorm food" before the
onset of his symptoms and he hasn't heard that anyone else at
school is sick. He denies IVDU. He denies alcohol use beyond
social drinking at most once a month. He uses cannabis
approximately once a month, but denies any other drug use.

Of note, this episode of diarrhea exists on a background of ___
years of intermittent diarrhea. He reports that sometimes he has
normal stools and he will then intermittently have days where he
has up to 6 loose bowel movements a day. He again denies any
blood or mucous in his stools. He reports these episodes seem to
occur in "flares" where he will have diarrhea for a couple 
weeks,
then he will be fine for a couple weeks. His diarrhea does not
appears to be related to food intake. He denies ever waking up
with diarrhea at night. He reports that since ___ he has lost
20 pounds unintentionally and says he sometimes feel waves of
nausea when trying to eat.  

ED Course notable for:
Initial Vitals in the ED: 98.7 | HR 72 | BP 113/79 | RR 18 | 97%
on RA 

Exam notable for: MMM, tender epigastrium, no fluid wave,
non-tender in lower quadrants 

Relevant labs/imaging: 
Normal CBC, WBC 6.1
Non-gap acidosis, Cl elevated at 110, bicarb low at 16, K 3.9, 
Cr
1.2 
ALT elevated at 97
AST elevated at 228
Alk phos at 55 
Normal bili 
CRP pending 
Stool cdiff, fecal culture, ova and parasites, campylobacter
pending 
UCx pending 

Normal abdominal US 

Consults: None 

Patient Received: 1000mL NS 

Vitals on Transfer: 98.9 | 123/67 | HR 72 | RR 18 | 99% on RA

Upon arrival to the floor, patient is stable with intermittent
cramping abdominal pain. He reports he is very thirsty and has a
mild appetite. He continues to have significant diarrhea. 

 
Past Medical History:
Anxiety 
Depression

 
Social History:
Reports occasional alcohol use ~1 a month or less 
Reports occasional cannabis use ~1 a month or less 
Denies IVDU or other illicit drug use 
Denies smoking or vaping 
Denies recent travel 
Patient is originally from ___, living in ___ and attending
___ studying computational science, in his first year of his
___ program. 
He reports that he is sexually active with men, he is in a
monogamous relationship and they do not use protection. He 
denies
any history of STIs and reports he gets testing on a regular
basis, most recently ~2 months ago, he was reportedly HIV
negative at that time. 
Denies any exposure to chickens, turtles, hedgehogs. Reports 
that
his parents have cockatoos and parrots at home, he was home last
week visiting.  

 
Family History:
Denies hx of IBD or autoimmune disorders 
Grandmother with colon cancer, grandfather with lymphoma 

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VITALS: 98.9 | 123/67 | HR 72 | RR 18 | 99% on RA
GENERAL: Alert and interactive. In no acute distress. 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
dry MM.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, non distended, TTP in RUQ and
epigastrium 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. 
SKIN: Warm. No rash. 
NEUROLOGIC: AOx3. Moving all extremities with purpose.  

DISCHARGE PHYSICAL EXAM
Vitals: 24 HR Data (last updated ___ @ 840)
    Temp: 97.5 (Tm 98.1), BP: 95/55 (95-114/54-67), HR: 57
(49-68), RR: 18, O2 sat: 98% (97-98), O2 delivery: Ra, Wt: 
144.62
lb/65.6 kg  
GENERAL: Alert and interactive. In no acute distress. 
HEENT: NCAT. Sclera anicteric and without injection.
dry MM 
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops. 
LUNGS: CTAB. No r/r/w. No increased WOB.  
ABDOMEN: Soft, non distended, mild TTP in epigastrium, 
hypoactive
BS
EXTREMITIES: No c/c/e. Pulses DP/Radial 2+ bilaterally. 
SKIN: Warm. No rash. 
NEUROLOGIC: AOx3. Moving all extremities with purpose.  
PSYCH: denies thoughts about harming self or others

 
Pertinent Results:
___ 05:30PM BLOOD WBC-6.1 RBC-4.79 Hgb-15.4 Hct-46.0 MCV-96 
MCH-32.2* MCHC-33.5 RDW-12.1 RDWSD-42.9 Plt ___
___ 05:40AM BLOOD WBC-4.8 RBC-4.42* Hgb-14.4 Hct-41.4 
MCV-94 MCH-32.6* MCHC-34.8 RDW-12.0 RDWSD-41.8 Plt ___
___ 07:55AM BLOOD WBC-3.6* RBC-4.10* Hgb-13.3* Hct-38.9* 
MCV-95 MCH-32.4* MCHC-34.2 RDW-12.2 RDWSD-42.5 Plt ___
___ 08:27AM BLOOD WBC-3.4* RBC-4.69 Hgb-15.0 Hct-44.1 
MCV-94 MCH-32.0 MCHC-34.0 RDW-12.2 RDWSD-42.1 Plt ___
___ 05:30PM BLOOD Neuts-68.6 Lymphs-18.2* Monos-11.1 
Eos-1.3 Baso-0.5 Im ___ AbsNeut-4.21 AbsLymp-1.12* 
AbsMono-0.68 AbsEos-0.08 AbsBaso-0.03
___ 05:30PM BLOOD ___ PTT-25.7 ___
___ 05:30PM BLOOD Glucose-93 UreaN-8 Creat-1.2 Na-138 K-3.9 
Cl-110* HCO3-16* AnGap-12
___ 05:40AM BLOOD Glucose-71 UreaN-7 Creat-1.3* Na-140 
K-4.1 Cl-107 HCO3-20* AnGap-13
___ 07:55AM BLOOD Glucose-82 UreaN-7 Creat-1.0 Na-145 K-4.3 
Cl-108 HCO3-25 AnGap-12
___ 08:27AM BLOOD Glucose-88 UreaN-7 Creat-1.0 Na-144 K-4.5 
Cl-104 HCO3-29 AnGap-11
___ 05:30PM BLOOD ALT-97* AST-228* AlkPhos-55 TotBili-1.5
___ 05:40AM BLOOD ALT-105* AST-229* LD(LDH)-354* AlkPhos-54 
TotBili-1.0
___ 07:55AM BLOOD ALT-113* AST-192* AlkPhos-51 TotBili-0.8
___ 05:30PM BLOOD Lipase-24
___ 05:30PM BLOOD Albumin-4.1
___ 05:40AM BLOOD Calcium-8.7 Phos-3.4 Mg-1.5*
___ 07:55AM BLOOD Calcium-8.7 Phos-4.0 Mg-2.0
___ 08:27AM BLOOD Calcium-9.3 Phos-4.0 Mg-1.9
___ 09:30PM BLOOD TSH-1.2
___ 05:40AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS*
___ 09:15AM BLOOD AMA-PND Smooth-PND ANCA-PND
___ 09:15AM BLOOD ___
___ 05:30PM BLOOD CRP-79.1*
___ 09:30PM BLOOD IgA-140
___ 05:40AM BLOOD HIV Ab-NEG
___ 09:30PM BLOOD tTG-IgA-PND
___ 05:40AM BLOOD HCV Ab-NEG
___ 09:30PM BLOOD HIV1 VL-PND
___ 09:30PM BLOOD HERPES SIMPLEX VIRUS 1 AND 2 (IGG)-PND

IMAGING
RUQUS (___)
FINDINGS:  
  
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the 
liver is smooth. There is no focal liver mass. The main portal 
vein is patent 
with hepatopetal flow. There is no ascites. 
  
BILE DUCTS: There is no intrahepatic biliary dilation. 
  CHD: 2 mm 
  
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening. 
  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic 
tail obscured by overlying bowel gas. 
  
SPLEEN:  Normal echogenicity. 
  Spleen length: 10.6 cm 
  
KIDNEYS:  Limited views of the kidneys show no hydronephrosis. 
  Right kidney: 11.4 cm 
  Left kidney: 10.8 cm 
  
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION:  
  
Normal abdominal ultrasound. 

 
Brief Hospital Course:
___ w/ ___ anxiety/depression and IBS who presents with acute on 
chronic diarrhea, abdominal pain, and fever to 102 with evidence 
of elevated lipase and LFTs admitted for infectious workup and 
IVF resuscitation, now with improving diarrhea.

ACUTE ISSUES: 
============= 
# Fever # Diarrhea # Abdominal pain # Esophageal Chest Pain: 
Patient presented with >48h hour history of severe diarrhea up 
to 20 times a day, nausea, vomiting (which has now resolved), 
abdominal pain and fever. Labs notable for non-gap metabolic 
acidosis c/w severe diarrhea, elevated LFTs AST > ALT (~2:1 
ratio), but patient denies EtOH use. Lipase was reportedly at 
upper limit of normal at ___ but is wnl here at 24. 
Abdominal US demonstrated no evidence of bile duct dilatation or 
evidence of cholecystitis. CRP elevated at 79.1 c/w acute 
infectious or autoimmune process. DDx at this time includes 
infectious diarrhea vs hepatitis vs IBD. In terms of infectious 
etiology, patient denies sick contacts, has no leukocytosis but 
was febrile. Elevated CRP can be in the setting of infection or 
inflammatory causes. No prior EGD/Colonoscopy. Diarrhea 
improving over weekend, resolving esophageal pain, some bloating 
abdominal pain overnight now resolved. GI consulted, believed 
etiology likely enteritis and possible toxin mediated secretory 
diarrhea, CT findings likely reactive adenopathy in setting of 
infection. Differential likely IBS vs less likely celiac. 
Received oral and IV hydration and was treated symptomatically. 
Regarding labs, TSH 1.2, IgA 140, ESR 2. Of note, HAV Ab 
positive. HIV Ab and HCB Ab negative; HbsAg, HBsAb, HBcAb were 
all negative, patient is ___ to Hep B. TTG, HSV, HIV VL, 
___, ANCA, ___, AMA, EBV, CMV, fecal calprotectin pending at 
time of discharge. Stool norovirus PCR, bacterial culture were 
both negative, ova + parasites, C-diff negative. Tolerated PO 
without issues by day of discharge.

Per patient, he has lost ___ lb since ___. Since his 
recent episode of worsening diarrhea, he has lost 3lb. PO intake 
complicated by occasional nausea. He reports some night sweats 
that improve after removing blankets at night but then reports 
feeling cold. 

#Transaminitis: ALT/AST elevated to 97/228 on admission (___), 
uptrended to 105/229 by ___ and remained stably elevated to 
113/192 by 2.2. Could be iso viral gastroenteritis.

___: Patient's Cr at 1.2 on admission, increased to 1.3 morning 
of ___, unclear baseline given no labs in system. Likely 
pre-renal in the setting of dehydration ___ vomiting and 
diarrhea. Improved to baseline 1.0 by ___.

#Dysuria: Patient endorsed pain and burning with urination on 
admission, UA with 3 WBC and negative leuks, UCx negative. 
Symptoms resolved by discharge and CT/NG were pending at time of 
discharge.

#Chest pain: On day of discharge endorsed some sharp chest pain 
___ with inspiration and exertion (while walking around), 
mid-sternal, improved with rest, which he describes as different 
from the esophageal pain he endorsed earlier. No pain with 
eating/swallowing. Chest wall was non-tender to palpation, EKG 
unchanged from previous EKG obtained on ___.

CHRONIC ISSUES:
===============
#Anxiety: Continued home escitalopram, trazodone, buproprion 

#ENT issues: per patient, he has chronic right ear pain, 
numbness in his right throat with swallowing. He reports ENT 
workup has so far been negative. No cervical or postauricular 
lymphadenopathy palpable on exam.

TRANSITIONAL ISSUES:
====================
[ ] Hep B ___ need hep B vaccination as outpatient
[ ] AST/ALT elevated throughout admission, ALT 113 and AST 192 
on ___. Will need close monitoring as outpatient.
[ ] Patient amenable to GI follow-up at ___. Given 
being discharged on weekend was provided with GI clinic number 
to make appointment
[ ] TTG, HSV, HIV VL, ___, ANCA, ___, AMA, EBV, CMV, fecal 
calprotectin pending at time of discharge
[ ] Patient has chronic ear pain, numbness in R side of throat 
with swallowing; per patient he has been worked up by ENT, which 
has been negative so far
[ ] Patient reports ___ pound weight loss since ___ 
benefit from speaking with nutritionist or dietician.

#CODE: Full code (presumed)
#CONTACT: ___, father, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 300 mg PO DAILY 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. LORazepam 0.5 mg PO Q6H:PRN anxiety 
4. TraZODone 100 mg PO QHS 

 
Discharge Medications:
1.  BuPROPion 300 mg PO DAILY  
2.  Escitalopram Oxalate 10 mg PO DAILY  
3.  TraZODone 100 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Diarrhea
Abdominal Pain

SECONDARY DIAGNOSIS:
====================
Acute kidney injury
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
-  You had fever, abdominal pain, worsening diarrhea

What did you receive in the hospital?  
-  You received IV fluids.
-  You were evaluated by our GI doctors, who opted not to 
perform
-  Your stool was tested and found to be negative for viruses or 
bacteria
-  Your diarrhea improved.

What should you do once you leave the hospital?  
-  Please continue taking your medications as prescribed.
-  If you develop fever, worsening abdominal pain, and marked 
increase in frequency of diarrhea, feel lightheaded or short of 
breath, please go to the nearest emergency room to be evaluated.
-  Please attend any outpatient appointments you have upcoming. 
Please call your PCP ___ (___) to make an 
appointment within 1 week of discharge. 
-  Please also call ___ to arrange a follow up 
appointment with our ___ clinic at ___ within ___ 
weeks after discharge.

We wish you the very best!  

Your ___ Care Team  

 
Followup Instructions:
___